US04892966
1.66 g (12 mmol) of potassium carbonate and 0.04 g (0.2 mmol) of benzyltriethylammonium chloride are suspended in 5 ml of acetonitrile. While stirring there are added thereto 1.60 g (10 mmol) of methyl 4-methoxy-2-methylacetoacetate and there are then added dropwise thereto within 15 minutes 1.39 g (15 mmol) of chloroacetone. The mixture is stirred at 20°-25° C. for a further 21 hours. The reaction mixture is poured into 20 ml of 2N HCl (pH value=1) and extracted 3 times with 20 ml of ethyl acetate each time. The combined organic phases are dried over sodium sulphate and evaporated on a rotary evaporator. The crude product distils at 95° C./0.03 mbar. There results 0.83 g (38.4%) of methyl 4-methoxy-2-acetonyl-2-methylacetoacetate.

reactant | potassium carbonate | 12 mmol, 1.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 4-methoxy-2-methylacetoacetate | 10 mmol, 1.60 g | COCC(C(C(=O)OC)C)=O | C7H12O4
reactant | chloroacetone | 15 mmol, 1.39 g | ClCC(C)=O | C3H5ClO
reactant | HCl | 2N, 20 ml, pH value=1 | Cl | ClH
catalyst | benzyltriethylammonium chloride | 0.2 mmol, 0.04 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | methyl 4-methoxy-2-acetonyl-2-methylacetoacetate | 0.83 g, 38.4% | COCC(C(C(=O)OC)(C)CC(=O)C)=O | C10H16O5
